US04009187
8-(5-Dimethoxymethyl-2-furyl)-octanoic acid methyl ester (6.03 g, 0.02 mol), methanol (50 ml) and Raney nickel (3.0 g) were shaken under 100 atmospheres of hydrogen for 48 hours at 85°-100° C. After filtration, the methanol was distilled under reduced pressure from a water bath (60° C). Ether (50 ml) was added to the residue, and the turbid colourless solution was filtered. The ethereal solution was evaporated to dryness from a water bath under reduced pressure, at last under 15 mm Hg. The residual clear, colourless oil (6.07 g) was purified by distillation from a potassium acetate-coated flask giving 5.66 g (93%) of 8-(5-dimethoxymethyl-tetrahydro-2-furyl)-octanoic acid methyl ester, b0.1 126°-127° C, nD25 1.4504.

reactant | 8-(5-Dimethoxymethyl-2-furyl)-octanoic acid methyl ester | 0.02 mol, 6.03 g | COC(CCCCCCCC=1OC(=CC1)C(OC)OC)=O | C16H26O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
solvent | methanol | 50 ml | CO | CH4O
product | 8-(5-dimethoxymethyl-tetrahydro-2-furyl)-octanoic acid methyl ester | 5.66 g, 93% | COC(CCCCCCCC1OC(CC1)C(OC)OC)=O | C16H30O5
